US08193187B2
8-(5-Fluoro-2-methylphenoxymethyl)-7-(2-methoxy-4-methoxymethoxyphenyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 8-1)
Under argon atmosphere, a mixture of 7-bromo-8-(5-fluoro-2-methylphenoxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 3-1, 2.32 g, 5.70 mmol), 2-methoxy-4-methoxymethoxyphenylboronic acid (Reference Compound No. 7-1, 2.43 g, 11.5 mmol), cesium carbonate (9.46 g, 29.0 mmol), and bis(triphenylphosphine)palladium(II)dichloride (415 mg, 0.591 mmol) was suspended in anhydrous N,N-dimethylformamide (25 ml) and the mixture was stirred at 80° C. for 5 hours. After cooling down, ethyl acetate (150 mL) and water (150 mL) were added and partitioned. The organic layer was washed with saturated brine (150 mL), dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (2.73 g) as a colorless solid. (Yield 97%)

reactant | 7-bromo-8-(5-fluoro-2-methylphenoxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 5.70 mmol, 2.32 g | BrC1=CC=C2NC(C(N(C2=C1COC1=C(C=CC(=C1)F)C)C)=O)(C)C | C19H20BrFN2O2
reactant | 2-methoxy-4-methoxymethoxyphenylboronic acid | 11.5 mmol, 2.43 g | COC1=C(C=CC(=C1)OCOC)B(O)O | C9H13BO5
reactant | cesium carbonate | 29.0 mmol, 9.46 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II)dichloride | 0.591 mmol, 415 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | water | 150 mL | O | H2O
product | 8-(5-Fluoro-2-methylphenoxymethyl)-7-(2-methoxy-4-methoxymethoxyphenyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 2.73 g, Yield 97% | FC=1C=CC(=C(OCC=2C(=CC=C3NC(C(N(C23)C)=O)(C)C)C2=C(C=C(C=C2)OCOC)OC)C1)C | C28H31FN2O5
